US06107297
To a solution of 5-bromo-2,4-bis(1,1-dimethylethoxy)pyrimidine (50 g) in dry tetrahydrofuran (11) at -78° C. was added n-butyllithium (69 ml of a 2.5M solution in hexanes) dropwise. After 0.5 hours, a solution of 5H-dibenzo[a,d]cyclohepten-5-one (44 g) in tetrahydrofuran (100 ml) was added. The reaction mixture was stirred at -78° C. for three hours and then allowed to warm to room temperature overnight. Saturated aqueous ammonium chloride solution (400 ml) was added and the mixture extracted with ethyl acetate. The organic solution was dried (MgSO4) and evaporated under reduced pressure to give the crude 5-(2,4-bis(1,1-dimethylethoxy)pyrimidin-5-yl)-5H-dibenzo[a,d]cyclohepten-5-ol which was used directly.

reactant | 5-bromo-2,4-bis(1,1-dimethylethoxy)pyrimidine | 50 g | BrC=1C(=NC(=NC1)OC(C)(C)C)OC(C)(C)C | C12H19BrN2O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 5H-dibenzo[a,d]cyclohepten-5-one | 44 g | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=O | C15H10O
reactant | ammonium chloride | 400 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-(2,4-bis(1,1-dimethylethoxy)pyrimidin-5-yl)-5H-dibenzo[a,d]cyclohepten-5-ol | CC(C)(OC1=NC=C(C(=N1)OC(C)(C)C)C1(C2=C(C=CC3=C1C=CC=C3)C=CC=C2)O)C | C27H30N2O3
